US09328118B2
Sodium cyanoborohydride (2.2 g) was added to a mixture of ethyl 4-piperidine acetate (2.0 g), (1-ethoxycyclopropoxy)trimethylsilane (6.1 g), acetic acid (6.7 mL), a molecular sieve 3A (2.0 g), MeOH (20 mL), and THF (20 mL) at room temperature, and the mixture was stirred at 65° C. for 6 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. After EtOAc was added to the residue, the mixture was stirred, and the insoluble material was separated by filtration. After water was added to the filtrate, potassium carbonate was added to alkalify the mixture. Extraction was performed on the mixture using EtOAc, and the extract was washed with a saturated aqueous NaHCO3 solution and saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CHCl3:MeOH=100:0 to 95:5), whereby ethyl(1-cyclopropylpiperidin-4-yl)acetate (2.1 g) was obtained as a colorless oil.

reactant | Sodium cyanoborohydride | 2.2 g | C(#N)[BH3-].[Na+]
reactant | ethyl 4-piperidine acetate | 2.0 g | N1CCC(CC1)CC(=O)OCC | C9H17NO2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 6.1 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 6.7 mL | C(C)(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | ethyl(1-cyclopropylpiperidin-4-yl)acetate | 2.1 g | C(C)OC(CC1CCN(CC1)C1CC1)=O | C12H21NO2
